US08445501B2
1-[4-Cyclopropylmethoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethanone
A suspension of 1-(3-Bromo-4-cyclopropylmethoxy-phenyl)-ethanone from example A23 (3.00 g, 11.1 mmol), potassium acetate (3.30 g, 33.3 mmol), bis(pinacolato)diboron (5.70 g, 22.2 mmol) and 1,1′-bis(diphenyl-phosphino)ferrocene palladium-Op-chloride (0.90 g, 1.1 mmol) in 1,4-dioxane (50 mL) is heated under a nitrogen atmosphere for 4 h at 100° C. After cooling to ambient temperature the solvent is evaporated. The mixture is purified by column chromatography on silica gel (n-hexane/ethyl acetate (65:35 v/v) to give the title compound as a off white solid.

reactant | 1-(3-Bromo-4-cyclopropylmethoxy-phenyl)-ethanone | BrC=1C=C(C=CC1OCC1CC1)C(C)=O | C12H13BrO2
reactant | potassium acetate | 33.3 mmol, 3.30 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 22.2 mmol, 5.70 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-[4-Cyclopropylmethoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethanone | C1(CC1)COC1=C(C=C(C=C1)C(C)=O)B1OC(C(O1)(C)C)(C)C | C18H25BO4
